US07951818B2
33.2. 5-(8-(4-(1,4′-bipiperidine-1′-carbonyl)phenylamino)imidazo[1,2-a]pyridin-5-yl)isoindolin-1-one
To a solution of 4-[5-(1-oxo-2,3-dihydro-1H-isoindol-5-yl)-imidazo[1,2-a]pyridin-8-ylamino]-benzoic acid (37.0 mg, 0.096 mmol), 4-dimethylaminobenzylamine (15.91 mg, 0.106 mmol) and triethylamine (10.72 mg, 0.047 mL, 0.106 mmol) in dimethylformamide (0.4 mL) under nitrogen is added benzotriazole-1-yl-oxy-tris-pyrrolidino-phosphonium hexafluorophosphate (55.10 mg, 0.106 mmol). The reaction mixture is then stirred at room temperature for 18 hours. The mixture is then diluted with EtOAc and washed with saturated aqueous NaHCO3. The combined organic layers are dried (MgSO4) and the solvent is removed under reduced. The crude product is purified by reverse phase HPLC to yield the title compound.

reactant | 4-[5-(1-oxo-2,3-dihydro-1H-isoindol-5-yl)-imidazo[1,2-a]pyridin-8-ylamino]-benzoic acid | 0.096 mmol, 37.0 mg | O=C1NCC2=CC(=CC=C12)C1=CC=C(C=2N1C=CN2)NC2=CC=C(C(=O)O)C=C2 | C22H16N4O3
reactant | 4-dimethylaminobenzylamine | 0.106 mmol, 15.91 mg | CN(C1=CC=C(CN)C=C1)C | C9H14N2
reactant | triethylamine | 0.106 mmol, 0.047 mL, 10.72 mg | C(C)N(CC)CC | C6H15N
reactant | benzotriazole-1-yl-oxy-tris-pyrrolidino-phosphonium hexafluorophosphate | 0.106 mmol, 55.10 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N2CCCC2)(N2CCCC2)N2CCCC2
solvent | dimethylformamide | 0.4 mL | CN(C=O)C | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(8-(4-(1,4′-bipiperidine-1′-carbonyl)phenylamino)imidazo[1,2-a]pyridin-5-yl)isoindolin-1-one | N1(CCCCC1)C1CCN(CC1)C(=O)C1=CC=C(C=C1)NC=1C=2N(C(=CC1)C=1C=C3CNC(C3=CC1)=O)C=CN2 | C32H34N6O2
